US08431605B2
b) 5-(2-methoxy-benzyl)-oxazol-2-ylamine
A mixture of 2-chloro-3-(2-methoxylphenyl)-propionaldehyde (10 g, crude from above) and urea (9.6 g, 0.16 mol) was dissolved in ethanol (250 mL) and then heated to reflux overnight. The solvent was evaporated to dryness. The residue was diluted with dichloromethane (250 mL) and then washed with sodium hydroxide (10% aqueous solution, 100 mL) and water (50 mL). The organic layer was extracted three times with hydrochloric acid (5% aqueous solution, 250 mL). The combined aqueous layers were adjusted to pH 9 to 10 with a 10% aqueous solution of sodium hydroxide and then extracted three times with dichloromethane (300 mL). The organic layer was separated, dried over sodium sulfate, and evaporated to dryness. The crude product was purified by silica gel column chromatography to yield the yellow-red solid product. (0.72 g, 0.35% from 2-methoxyaniline). ESI-MS m/z calc. 204.1. found 205.1 (M+1)+ 1H NMR (CDCl3) δ 7.26-7.20 (m, 1H), 7.14 (d, J=7.2 Hz, 1H), 6.91-6.86 (m, 2H), 6.35 (s, 1H), 4.49 (bs, 2H), 3.85 (s, 2H), 3.82 (s, 3H).

reactant | 2-chloro-3-(2-methoxylphenyl)-propionaldehyde | 10 g | ClC(C=O)CC1=C(C=CC=C1)OC | C10H11ClO2
reactant | urea | 0.16 mol, 9.6 g | NC(=O)N | CH4N2O
reactant | 2-methoxyaniline | COC1=C(N)C=CC=C1 | C7H9NO
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | 5-(2-methoxy-benzyl)-oxazol-2-ylamine | COC1=C(CC2=CN=C(O2)N)C=CC=C1 | C11H12N2O2
